US08084485B2
To a mixture of (2S,4S)-ethyl 2-(tert-butoxycarbonylamino)-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate (7.2 g, 15.2 mmol) in EtOH (100 mL) was added NaBH4 (5.0 g, 131 mmol) in portions such that the temperature remained lower than 40° C. The mixture was stirred at rt for 12 h. TLC showed the starting material had been consumed. The solvent was removed in vacuo and the residue was partitioned between water and EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4, and evaporated to produce tert-butyl (2S,4S)-1-hydroxy-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexan-2-ylcarbamate (5.8 g, 88%). MS: 434 (M++1)

reactant | (2S,4S)-ethyl 2-(tert-butoxycarbonylamino)-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate | 15.2 mmol, 7.2 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC | C26H41N3O5
reactant | NaBH4 | 131 mmol, 5.0 g | [BH4-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | tert-butyl (2S,4S)-1-hydroxy-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexan-2-ylcarbamate | 5.8 g, 88% | OC[C@H](C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC)NC(OC(C)(C)C)=O | C24H39N3O4
